US04506079
To a solution of 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane (100 parts) and triethylamine (143 parts) in dichloromethane (1500 parts) is dropwise added a solution of stannic chloride (80 parts) in dichloromethane (500 parts) at -60° C. with stirring. The mixture is warmed to room temperature, stirred for 5 hours, concentrated and shaken with aqueous 5N-sodium hydroxide and ethyl acetate. The ethyl acetate layer is separated, washed with water, dried over sodium sulfate and concentrated under reduced pressure to give crude product (73 parts) in 87.9% yield. This is triturated in ethyl acetate to give pure 4-(2-hydroxy-3-isopropylaminopropoxy)-1-p-toluenesulfonylindole (56.1 parts) as amorphous solid in 67% yield. NMR: δCD 3SOCD 3 0.97d(6.5 Hz)6H, 2.29s3H, 2.56-2.90m3H, 3.76-4.20m3H, 6.71-7.92m9H. (HCl salt of the product) m.p. 225°-226° C. (decomp.). NMR: δCD 3SOCD 3 1.28d(6.5 Hz)6H, 2.29s3H, 2.76-3.58m, 3.93-4.53m3H, 5.92brs1H, 6.73-7.00m2H, 7.15-7.96m7H, 9.09brs2H. (HBr salt of the product) m.p. 235°-238° C. (decomp.). (HI salt of the product) m.p. 227.5° C. (decomp.)

reactant | 4'-isopropylaminomethyl-5-bromo-1-p-toluenesulfonyl-4,5,6,7-tetrahydroindole-4-spiro-2'-[1,3]dioxolane | C(C)(C)NCC1OC2(OC1)C=1C=CN(C1CCC2Br)S(=O)(=O)C2=CC=C(C=C2)C | C21H27BrN2O4S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(2-hydroxy-3-isopropylaminopropoxy)-1-p-toluenesulfonylindole | 67% yield | OC(COC1=C2C=CN(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)CNC(C)C | C21H26N2O4S
